US04317820
4.4 g of diethyl ethoxymethylenemalonate was added to 3.4 g of 2-methyl-4-chloroindoline and the mixture was heated on an oil bath at 110° to 120° C. for 40 minutes. 20 g of polyphosphoric acid prepared from 10 g of phosphoric acid and 10 g of phosphorus pentoxide was added thereto and the mixture was heated on an oil bath at 130° to 140° C. for 1 hour. After completion of the reaction, the mixture was allowed to cool to 60° C., poured into ice water and rendered neutral with a 10% aqueous sodium hydroxide solution. The crystals precipitated were collected by filtration and washed with water. The crystals thus-treated were mixed with 50 ml of a 10% aqueous sodium hydroxide solution and the mixture was heat-refluxed on an oil bath for 1 hour. As the reaction proceeded the mixture was changed to a uniform solution. The solution was treated with activated carbon while hot followed by filtration. The filtrate was rendered acidic with concentrated hydrochloric acid to obtain 3.8 g of 9-chloro-2-methyl-6-oxo-1,2-dihydro-6H-pyrrolo[3,2,1-ij]quinoline-5-carboxylic acid. Recrystallization of the product from dimethylformamide gave 3.8 g of white needles having a melting point of 288° to 290° C.

reactant | diethyl ethoxymethylenemalonate | 4.4 g | C(C)OC=C(C(=O)OCC)C(=O)OCC | C10H16O5
reactant | 2-methyl-4-chloroindoline | 3.4 g | CC1NC2=CC=CC(=C2C1)Cl | C9H10ClN
reactant | phosphoric acid | 10 g | P(O)(O)(O)=O | H3O4P
reactant | phosphorus pentoxide | 10 g | O=P12OP3(=O)OP(=O)(O1)OP(=O)(O2)O3 | O10P4
reactant | sodium hydroxide | [OH-].[Na+]
product | 9-chloro-2-methyl-6-oxo-1,2-dihydro-6H-pyrrolo[3,2,1-ij]quinoline-5-carboxylic acid | 3.8 g | ClC1=CC=C2C(C(=CN3C2=C1CC3C)C(=O)O)=O | C13H10ClNO3
